US09102591B2
A solution of 4-iodo-1-methyl-1H-pyrazole (0.80 g, 3.9 mmol) in THF (7.04 g, 8.00 ml, 98 mmol) was cooled at 0° C. A solution of isopropylmagnesium chloride lithium chloride complex in THF (5.42 ml, 4.23 mmol, 0.78 molar) was added dropwise and the reaction was stifled for 1½ hour. A solution of N-methoxy-N-methyltetrahydro-2H-pyran-4-carboxamide (0.733 g, 4.23 mmol) in THF (2 mL) was added dropwise. Cooling was removed after 15 min and reaction was then stirred for 2 hours. To the mixture was added 2 M HCl (20 mL) and it was extracted with AcOEt (3×25 mL). The combined organic phases were washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography to yield (1-methyl-1H-pyrazol-4-yl)(tetrahydro-2H-pyran-4-yl)methanone (220 mg, 1.13 mmol, 29.4% yield).

reactant | 4-iodo-1-methyl-1H-pyrazole | 3.9 mmol, 0.80 g | IC=1C=NN(C1)C | C4H5IN2
reactant | N-methoxy-N-methyltetrahydro-2H-pyran-4-carboxamide | 4.23 mmol, 0.733 g | CON(C(=O)C1CCOCC1)C | C8H15NO3
reactant | HCl | 2 M, 20 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 4.23 mmol, 0.78 molar, 5.42 ml | C1CCOC1 | C4H8O
solvent | THF | 98 mmol, 8.00 ml, 7.04 g | C1CCOC1 | C4H8O
product | (1-methyl-1H-pyrazol-4-yl)(tetrahydro-2H-pyran-4-yl)methanone | 1.13 mmol, 220 mg, 29.4% yield | CN1N=CC(=C1)C(=O)C1CCOCC1 | C10H14N2O2
